US07964645B2
Preparation of rac-4-Fluoro-N-({[(2-fluoro-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-benzamide
Prepared in analogy to example 1.1 from 4-fluoro-hippuric acid (CA [366-79-0]) and rac-C-(2-fluoro-phenyl)-C-phenyl-methylamine (CA [55095-24-4]).

reactant | 4-fluoro-hippuric acid | FC1=CC=C(C(NCC(=O)O)=O)C=C1 | C9H8FNO3
reactant | rac-C-(2-fluoro-phenyl)-C-phenyl-methylamine | FC1=C(C=CC=C1)C(C1=CC=CC=C1)N | C13H12FN
product | rac-4-Fluoro-N-({[(2-fluoro-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-benzamide | FC1=CC=C(C(=O)NCC(NC(C2=CC=CC=C2)C2=C(C=CC=C2)F)=O)C=C1 | C22H18F2N2O2
